US07087599B2
Aluminum chloride (6.5 g, 48.8 mmol) was added to a stirred mixture of 1-fluoro-2-methoxybenzene (5.0 mL, 44.4 mmol) and hexanoyl chloride (7.5 mL, 53.3 mmol) at room temperature. The mixture warmed and HCl evolution occurred. The resulting mixture was stirred at room temperature for 45 minutes and then partitioned between EtOAc (100 mL) and water (100 mL). The EtOAc layer was washed with water (100 mL), aqueous K2CO3 (100 mL) and brine (50 mL), dried over MgSO4, filtered, and evaporated under vacuum to yield crude 1-(3-fluoro-4-methoxyphenyl)-1-hexanone (9 g) as a solid.

reactant | Aluminum chloride | 48.8 mmol, 6.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-fluoro-2-methoxybenzene | 44.4 mmol, 5.0 mL | FC1=C(C=CC=C1)OC | C7H7FO
reactant | hexanoyl chloride | 53.3 mmol, 7.5 mL | C(CCCCC)(=O)Cl | C6H11ClO
reactant | HCl | Cl | ClH
product | 1-(3-fluoro-4-methoxyphenyl)-1-hexanone | 9 g | FC=1C=C(C=CC1OC)C(CCCCC)=O | C13H17FO2
